Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CC: ___ chest pain

HPI: Ms. ___ is a ___ woman with history of breast
cancer s/p chemo/XRT on anastrazole, hypothyroidism, right
rotatory cuff surgery ___ now presenting with pleuritic chest
pain and found to have pulmonary embolism.

The patient reports that she underwent right rotator cuff 
surgery
on ___. She is a physical therapist, and since then has been
slightly less active than usual in relative sense, but has
remained active and is doing her physical therapy exercises and
continues to walk about 45 minutes per day. No recent prolonged
car or plane travel. No calf pain or swelling. 

She reports that about 10 days prior to presentation she
developed cold-like symptoms including sneezing and
rhinorrhea/congestion. A few days later she developed a cough
with productive sputum. These symptoms subsequently resolved.
Then ___ days prior to present she began to feel malaise, fever,
and left-sided pleuritic chest pain. She also has some shortness
of breath, but she feels that this is due to not being able to
take comfortable breaths due to pain. She took some ibuprofen at
home, which improved her pain slightly. She was seen in clinic
for this, and D-dimer was obtained and found to be elevated so
she was referred for a CTA that demonstrated RLL
segmental/subsegmental PEs with a small clot burden and no RV
strain, as well as a left lower lobe ground-glass opacities. The
patient was subsequently referred to the ED for further care.

In the ED, vitals: 96.9 88 136/92 18 99% RA 
Exam notable for: Chest: CTAB, speaking in full sentences
Labs notable: WBC, BMP wnl; trop <0.01, BNP 66
Imaging: None new
Patient given: Tylenol 1 g, Zofran 4 mg IV, morphine 2 mg IV,
ceftriaxone 1 g IV, azithromycin 500 mg IV, heparin gtt

On arrival to the floor, the patient reports left-sided 
pleuritic
chest pain associated with mild dyspnea. No other complaints at
this time.
 
ROS: Pertinent positives and negatives as noted in the HPI. All
other systems were reviewed and are negative. 

PAST MEDICAL/SURGICAL HISTORY:
- Breast cancer, right, ER+/HER2-, BRCA-, status post 
lumpectomy,
cytoxan/adriamycin/taxol, and radiation, currently on
___
- Hypothyroidism
- Hyperlipidemia
- Osteoporosis
- Possible TIA ___
- S/p right rotator cuff surgery

SOCIAL HISTORY: ___
FAMILY HISTORY: No known family history of VTE.
- Mother: ___ cancer
- Sister: ___ cancer

ALLERGIES/ADR: See webOMR

PREADMISSION MEDICATIONS:
The Preadmission Medication list is accurate and complete
1. Anastrozole 1 mg PO DAILY 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Vitamin D 500 UNIT PO DAILY 

EXAM
VITALS: 98.3 116 / 69 88 18 98 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs; mild tenderness over 
left
ribs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect

 
Major Surgical or Invasive Procedure:
.
 
History of Present Illness:
.
 
Past Medical History:
.
 
Social History:
___
Family History:
.
 
Physical Exam:
.
 
Pertinent Results:
Labs:
___ 07:50PM BLOOD WBC: 8.0 RBC: 4.14 Hgb: 12.1 Hct: 37.2
MCV: 90 MCH: 29.2 MCHC: 32.5 RDW: 12.5 RDWSD: 41.___ 
___ 07:50PM BLOOD Neuts: 72.9* Lymphs: 16.4* Monos: 8.0 
Eos:
1.5 Baso: 0.4 Im ___: 0.8* AbsNeut: 5.81 AbsLymp: 1.31 AbsMono:
0.64 AbsEos: 0.12 AbsBaso: 0.03 
___ 07:50PM BLOOD ___: 12.0 PTT: 22.7* ___: 1.1 
___ 07:50PM BLOOD Glucose: 102* UreaN: 12 Creat: 0.8 Na: 
137
K: 5.3 Cl: 103 HCO3: 21* AnGap: 13 
___ 07:50PM BLOOD Calcium: 9.1 Phos: 4.4 Mg: 2.1 
___ 07:50PM BLOOD proBNP: 66 
___ 07:50PM BLOOD cTropnT: <0.01 

Micro:
- FluPCR (___): Negative

Imaging:
- CTA (___):

IMPRESSION:
1. Examination positive for pulmonary embolism, with overall low
clot burden, and no evidence of right heart strain.
2. Focal groundglass changes in the left lower lobe. The
differential diagnosis includes a developing pulmonary infarct,
infiltrate, or atelectasis (malignancy much less likely). Few
minor areas of pleural-parenchymal thickening in the right lung,
likely secondary to scarring or atelectasis. Consider follow-up
noncontrast chest CT in 3 months time for further assessment of
these findings.
3. Few small stable and benign-appearing nodules in the lungs.
4. Incidental left renal cyst.

 
Brief Hospital Course:
SUMMARY/ASSESSMENT: Ms. ___ is a ___ woman with
history of breast cancer s/p chemo/XRT on anastrazole,
hypothyroidism, right rotatory cuff surgery ___ now presenting
with pleuritic chest pain and found to have pulmonary embolism.

ACUTE/ACTIVE PROBLEMS:
# Pleuritic chest pain:
# Pulmonary embolism: Patient presenting with pleuritic chest
pain and found hemodynamically stable pulmonary emboli without
hypoxia or evidence of right heart strain. The patient has an
intermediate PESI score based on her age on history of breast
cancer. The provocation for her venous thromboembolism is not
entirely clear but is in the setting of anastrozole treatment 
for
her breast cancer. Although she had a rotator cuff surgery about
one month ago, she has not been immobile or inactive. Of
additional note, her pleuritic chest pain is on the left side,
while her pulmonary emboli are on the right. Per review of her
outside CT, she has some ground-glass opacities in the left 
lower
lobe. Her symptoms of viral prodrome suggest possible viral
pneumonia; FluPCR negative; I am not fully convinced that she 
has
developed a superimposed bacterial infection based on history or
imaging.   She has some mild rib tenderness on exam that may
suggest a costochondritis. It is also possible that she has
pulmonary embolism or evolving pulmonary infarct on the left
side. We discussed options for transition to direct oral
anticoagulation and will begin rivaroxaban for ease of
administration with once daily dosing after the loading period. 
She did this without difficulty.  She did not require any ABX, 
and her pain improved with Tylenol, NSAIDs, and less so 
lidocaine.  Coughing made it worse, so she was given cough 
suppressants.  An element of viral URI may be a contributing 
cause.    She was given risk counseling for worsening pain and 
precautions about taking anticoagulation.  There was no evidence 
of arrhythmia or cardiac ischemia, and ambulatory SaO2 was 96% 
on RA.  

# Breast cancer s/p resection, chemo/XRT:
Continue anastrazole for now; per Heme/Onc notes from ___ had
planned to continue anastrazole through ___ to complete ___
years, but could discuss earlier discontinuation in discussion
with the patient's outpatient oncologist (Dr. ___, NP
___ at ___

#Nodules seen on chest imaging - she can discuss what if any 
additional testing would be beneficial with her PCP.  

I spent > 30 min on D/C planning and coordination of care.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Anastrozole 1 mg PO DAILY 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Vitamin D 500 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*21 Capsule Refills:*0 
3.  Naproxen 250 mg PO DAILY Duration: 3 Days  
4.  Rivaroxaban 15 mg PO BID Duration: 21 Days 
RX *rivaroxaban [___] 15 mg 1 tablet(s) by mouth twice a day 
Disp #*40 Tablet Refills:*0 
5.  Anastrozole 1 mg PO DAILY  
6.  Levothyroxine Sodium 75 mcg PO DAILY  
7.  Vitamin D 500 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pulmonary embolism 
Upper respiratory infection where you should have follow-up with 
chest imaging with your primary care doctor. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with a pulmonary embolism as 
well as left-sided pain and coughing that are possibly a result 
of minor aspiration or an upper respiratory infection.  
We wish you the best in your recovery, 
Your ___ Team 
 
Followup Instructions:
___